US09403773B2
Potassium carbonate (6.55 g, 47.4 mmol), cyclopentyl bromide (8.25 g, 55.3 mmol) and DMF (5 ml) were added to a DMF solution (10 ml) of 5′-bromo-2′-hydroxyacetophenone (8.5 g, 39.5 mmol), and the resulting mixture was stirred at 60° C. for 4.5 hours. Potassium carbonate (3.0 g, 21.7 mmol) and cyclopentyl bromide (2.0 g, 13.4 mmol) were added to the resultant mixture, and stirred at 60° C. for 9 hours. After the reaction mixture was cooled to room temperature, water was added, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, and then concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1). The purified product was concentrated under reduced pressure to thereby obtain 11.3 g of oily pale yellow 1-(5-bromo-2-cyclopentyloxyphenyl)ethanone (yield: 100%).

reactant | Potassium carbonate | 47.4 mmol, 6.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 55.3 mmol, 8.25 g | C1(CCCC1)Br | C5H9Br
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 5′-bromo-2′-hydroxyacetophenone | 39.5 mmol, 8.5 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | Potassium carbonate | 21.7 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 13.4 mmol, 2.0 g | C1(CCCC1)Br | C5H9Br
solvent | water | O | H2O
product | 1-(5-bromo-2-cyclopentyloxyphenyl)ethanone | 11.3 g, yield: 100% | BrC=1C=CC(=C(C1)C(C)=O)OC1CCCC1 | C13H15BrO2
